US09289366B2
Cyclopentene reacted with carbon monoxide (CO) and hydrogen (H2) in the presence of a Wilkinson's catalyst to provide cyclopentanecarboxaldehyde, which then reacted with methylmagnesium chloride (MeMgCl) to provide 1-cyclopentylethanol, which further reacted with crotonic acid in the presence of p-toluenesulfonic acid (pTSA) to afford product but-2-enoic acid 1-cyclopentyl-ethyl ester.

reactant | crotonic acid | C(\C=C\C)(=O)O | C4H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | but-2-enoic acid 1-cyclopentyl-ethyl ester | C1(CCCC1)C(C)OC(C=CC)=O | C11H18O2
